US05563142
1-[5-Nitroindolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine (III)
Following the general procedure of EXAMPLE 16A and making non-critical variations but starting with 5-nitroindole-2 -carboxylic acid (0.86 g), 1-[3-(N-isopropyl)amino-2-pyridinyl]piperazine (0.43 g), 1-(ethyl)-3-(dimethylaminopropyl)carbodiimide (0.45 g) and THF (4 ml), the title compound is obtained, mp 153°-154°.

reactant | 5-nitroindole-2 -carboxylic acid | 0.86 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
reactant | 1-[3-(N-isopropyl)amino-2-pyridinyl]piperazine | 0.43 g | C(C)(C)NC=1C(=NC=CC1)N1CCNCC1 | C12H20N4
reactant | 1-(ethyl)-3-(dimethylaminopropyl)carbodiimide | 0.45 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 1-[5-Nitroindolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine | CC(C)NC1=C(N=CC=C1)N2CCN(CC2)C(=O)C3=CC4=C(N3)C=CC(=C4)[N+](=O)[O-] | C21H24N6O3
